US07842685B2
Synthesis of (5-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)-1,3-dihydro-2H-isoindol-2-yl)acetic acid
Methyl 2-(5-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)isoindolin-2-yl)acetate (17 mg, 0.039 mmol) was dissolved in THF (308 μL) and water (77 μL) before lithium hydroxide monohydrate (1 mg, 0.039 mmol) was added and stirred at 65° C. for 2 h. The reaction mixture was concentrated, acidified with 1 N HCl, and filtered. The solid was dissolved in DMSO and eluted through the frit to give the title compound after concentration. MS (ESI) m/z: Calculated: 427.1; Observed: 427.9 (M++H).

reactant | Methyl 2-(5-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)isoindolin-2-yl)acetate | 0.039 mmol, 17 mg | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C=2C=C1CN(CC1=CC2)CC(=O)OC | C26H23N3O2S
reactant | water | 77 μL | O | H2O
reactant | lithium hydroxide monohydrate | 0.039 mmol, 1 mg | O.[OH-].[Li+]
solvent | THF | 308 μL | C1CCOC1 | C4H8O
product | (5-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)-1,3-dihydro-2H-isoindol-2-yl)acetic acid | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C=2C=C1CN(CC1=CC2)CC(=O)O | C25H21N3O2S
